US05436224
Production of 6-methyl-3-[1-methyl-1-(2naphthyl)ethyl]-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one (Compound No. 606)
A mixture of 5-phenyl-2,2,6-trimethyl-2H,4H-1,3-dioxin-4-one (0.65 g), N-methylene-1-methyl-1-(2-naphthyl)ethylamine (0.60 g) and xylene (3 ml) was heated at reflux for 20 minutes for reaction. The reaction mixture was purified by silica gel chromatography to obtain the captioned compound (0.40 g).

reactant | 5-phenyl-2,2,6-trimethyl-2H,4H-1,3-dioxin-4-one | 0.65 g | C1(=CC=CC=C1)C=1C(OC(OC1C)(C)C)=O | C13H14O3
reactant | N-methylene-1-methyl-1-(2-naphthyl)ethylamine | 0.60 g | C=NC(C)(C1=CC2=CC=CC=C2C=C1)C | C14H15N
solvent | xylene | 3 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-methyl-3-[1-methyl-1-(2naphthyl)ethyl]-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one | 0.40 g | CC1=C(C(N(CO1)C(C)(C1=CC2=CC=CC=C2C=C1)C)=O)C1=CC=CC=C1 | C24H23NO2
